US08669266B2
(i) 2-Furan-2-yl-quinoline-4-carboxylic acid ethyl ester
To 40 ml of a saturated solution of hydrochloric acid in ethanol 2 g of 2-Furan-2-yl-quinoline-4-carboxylic acid was added and the mixture was heated to reflux for 3 h. Then, after cooling to RT, 30 ml of toluene was added and the solvents were removed under reduced pressure. The obtained crude product was pure enough for the next reaction step. Yield: 2.5 g.

reactant | hydrochloric acid | Cl | ClH
reactant | 2-Furan-2-yl-quinoline-4-carboxylic acid | O1C(=CC=C1)C1=NC2=CC=CC=C2C(=C1)C(=O)O | C14H9NO3
reactant | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 2 g | C(C)O | C2H6O
product | 2-Furan-2-yl-quinoline-4-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC(=NC2=CC=CC=C12)C=1OC=CC1 | C16H13NO3
